US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-oxazol-2-yl)azetidine (3.88 g, 9.50 mmol) (obtained as described in Reference Example 70(9)) in methylene chloride (190 ml) was added activated manganese dioxide (19.4 g) and the mixture was stirred at room temperature for 2 hours. After checking the completion of the reaction, the mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-formyl-1,3-oxazol-2-yl)azetidine (3.09 g, yield 80%) as pale yellow crystals.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-oxazol-2-yl)azetidine | 9.50 mmol, 3.88 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)CO | C23H28N2O3Si
solvent | methylene chloride | 190 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 19.4 g | [O-2].[O-2].[Mn+4]
product | 3-t-butyldiphenylsilyloxy-1-(4-formyl-1,3-oxazol-2-yl)azetidine | 3.09 g, yield 80% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)C=O | C23H26N2O3Si
